US05807866
(e) Trans-3-(3-bromophenyl)-2-propenol
A vigorously stirred solution of ethyl trans-3-(3-bromophenyl)-2-propenoate (26.71 g, 0.105 mol) in dry toluene (150 ml) at -5° C. (ice-EtOH) under nitrogen was treated with lithium aluminium hydride (3.98 g, 0.105 mol) in one portion. The reaction temperature was allowed to gradually warm to room temperature over 30 min., at 25° C. the reaction became quite exothermic (25°-40° C.) with the formation of a grey gelatinous precipitate. Stirring was continued for 1 h, after which the reaction was carefully quenched with water (300 ml) and ice (200 g) then allowed to stand at 25° C. for 30 min. The mixture was filtered through Celite (Registered Trade Mark) and the residue was washed with ethyl acetate (2×200 ml). The filtrate was extracted with the organic washings, the combined organic phases were washed with brine (3×300 ml), water (300 ml), dried (Na2SO4) and evaporated to give the title compound as a pale yellow oil (21.42 g, 96%). Distillation at 120° C. at 0.05 mmHg. gave a colourless oil. (Found C, 50.73; H, 4.12; Br, 37.53. C9H9BrO requires C, 50.73; H, 4.26; Br, 37.50%); νmax (thin film)/cm-1 3325.5 (br. OH), 2862.0, 1653.0, 1591.0, 1562.5; δH (270 MHz) 2.15 (1H, bs, 1-OH), 4.30 (2H, dd, 2×1-H, 3J1,2 =5.5, 4J1,3 1.5 Hz), 6.33 (1H, dt, 2-H, 3J2,3 =15.8, 3J2,1 =5.3 Hz), 6.53 (1H, dt, 3-H, 3J3,2 =16.2, 4J3,1 =1.3 Hz), 7.15 (1H, t, 5'-H, Jo =7.8 Hz), 7.26 (1H, dt, 6'-H, Jo =7.6, Jm =1.3 Hz), 7.35 (1H, dt, 4'-H, Jo =7.9, Jm =1.6 Hz), 7.50 (1H, t, 2'-H, Jm =1.6 Hz). δC (67.8 MHz) 63.2 (1-C), 122.7 (3'-C), 125.0 (2-C), 129.2 (5'-H), 138.8 (1'-C). The remaining signals fall in the narrow range 130.0 to 130.4 ppm; m/z 214.1, 212.1 (44.86,49.78, M+), 196.0, 194.0 (1.47, 1.03), 185.0, 183.0 (10.81, 12.19), 172.0, 170.0 (46.47, 49.07), 158.0, 156.0 (15.47, 15.80), 133.1, 131.1 (36.29, 25.66), 104.1 (100).

reactant | ethyl trans-3-(3-bromophenyl)-2-propenoate | 0.105 mol, 26.71 g | BrC=1C=C(C=CC1)/C=C/C(=O)OCC | C11H11BrO2
reactant | lithium aluminium hydride | 0.105 mol, 3.98 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | Trans-3-(3-bromophenyl)-2-propenol | 21.42 g, 96% | BrC=1C=C(C=CC1)/C=C/CO | C9H9BrO
